US07939533B2
c) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-dimethylsulfamoyl-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide
To a solution of 0.13 g (0.19 mmol) 5′-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-sulfonic acid in 2 ml dichloromethane were added 0.33 ml (0.39 mmol) oxalyl chloride and one drop of DMF at 0° C. After 30 min the reaction mixture was allowed to warm to room temperature during 2 h. To the yellow reaction mixture were added 1.8 ml (20 mmol) of an aqueous solution of dimethylamine (60%). After 1 h the reaction mixture was diluted with water and extracted with three portions of dichloromethane. The combined organic extracts were dried over sodium sulphate and concentrated. Flash column chromatography gave 92 mg (69%) of the title compound as a white solid.

reactant | 5′-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-sulfonic acid | 0.19 mmol, 0.13 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=CC(=NC1)N1CCC(CC1)S(=O)(=O)O)C1=C(C=C(C=C1)F)C)C)(C)C)(F)F | C30H30F7N3O4S
reactant | oxalyl chloride | 0.39 mmol, 0.33 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylamine | CNC | C2H7N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-dimethylsulfamoyl-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide | 92 mg, 69% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=NC1)N1CCC(CC1)S(N(C)C)(=O)=O)C1=C(C=C(C=C1)F)C)(C)C)(F)F | C32H35F7N4O3S
